US04113863
To 2 g. 9β-hydroxy-15-oxo-12-prostenoic acid ethyl ester, dissolved in 20 ml. dry ethanol, is added with ice cooling under nitrogen with exclusion of moisture and stirring, portionwise over 15 minutes, 206 mg. NaBH4. The mixture is stirred 15 minutes more and 0.325 ml. glacial acetic acid is added dropwise thereto. The mixture is poured into 50 ml. of water. Solvent is removed by distillation and the residue is extracted three times with 15 ml. amounts of diethyl ether. The organic phase is washed with water and dried over Na2SO4. Solvent is removed to obtain as residue 9β,15-dihydroxy-12-prostenoic acid ethyl ester which, after chromatographic purification twice (first silica gel/dichloromethane:acetone = 10:1; then silica gel/petroleum ether:ethanol = 9:1), can be separated into the two 15-epimers:

reactant | 9β-hydroxy-15-oxo-12-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CCC(CCCCC)=O)O)=O | C22H38O4
reactant | ethanol | C(C)O | C2H6O
reactant | NaBH4 | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 9β,15-dihydroxy-12-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CCC(CCCCC)O)O)=O | C22H40O4
